US09062092B2
Compound 113a. 2,2-Dimethyl-5-vinyl-[1,3]dioxane-5-carboxylic acid
A solution of 2,2-dimethyl-5-vinyl-[1,3]dioxane-5-carboxylic acid ethyl ester (150 mg, 0.7 mmol) in tetrahydrofuran (3 mL) was stirred at 5° C. under nitrogen. A solution of lithium hydroxide monohydrate (59 mg, 1.4 mmol) in water (1 mL) was added and the reaction mixture was stirred at 5° C. for 30 minutes and then at room temperature for 5 hours. Methanol (0.5 mL) was added to give a clear solution and the reaction mixture was stirred at room temperature for 22 hours. The solvent was evaporated. Water (2 mL) was added to the residue and the solution was acidified to pH 2 with 2 M hydrochloric acid. Brine was added and the mixture was extracted with ethyl acetate. The organic extracts were combined, washed with brine. The organic extract was separated, washed with water (×5), and brine. The organic solution was filtered through a hydrophobic frit and the filtrate was evaporated to afford the title compound (117 mg, 90%) as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 1.44 (s, 3H), 1.49 (s, 3H), 3.91 (d, J=12.0 Hz, 2H), 4.32 (d, J=12.0 Hz, 2H), 5.30 (d, J=17.8 Hz, 1H), 5.35 (d, J=10.7 Hz, 1H), 5.76 (dd, J=17.8, 10.7 Hz, 1H). LCMS (m/z) 185.1 [M−H], Tr=1.26 min.

reactant | 2,2-dimethyl-5-vinyl-[1,3]dioxane-5-carboxylic acid ethyl ester | 0.7 mmol, 150 mg | C(C)OC(=O)C1(COC(OC1)(C)C)C=C | C11H18O4
reactant | lithium hydroxide monohydrate | 1.4 mmol, 59 mg | O.[OH-].[Li+]
reactant | Methanol | 0.5 mL | CO | CH4O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | 2,2-Dimethyl-5-vinyl-[1,3]dioxane-5-carboxylic acid | 117 mg, 90% | CC1(OCC(CO1)(C(=O)O)C=C)C | C9H14O4
